US08871756B2
[4-({[3-(Aminomethyl)oxetan-3-yl]methyl}amino)-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-yl]methanol
The title compound was prepared in analogy to Example 6-1 in Scheme 52 by using [4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-yl]methanol and oxetane-3,3-diyldimethanamine. MS obsd. (ESI+) [(M+H)+] 469, 1H NMR (400 MHz, DMSO-d6) δ ppm 7.93 (d, 1 H), 7.83 (m, 1 H), 7.75 (s, 1 H), 7.59 (m, 1 H), 7.42 (m, 1 H), 7.34 (s, 2 H), 7.25 (t, 1 H), 6.13 (s, 1 H), 5.10 (t, 1 H), 5.04 (s, 2 H), 4.47 (d, 2 H), 4.34 (m, 6 H), 3.58 (d, 2 H), 3.52 (d, 2 H), 2.96 (t, 2 H), 1.79 (m, 2 H).

reactant | [4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-yl]methanol | ClC1=CC(=NC2=CC=C(C=C12)CO)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O3S
reactant | oxetane-3,3-diyldimethanamine | O1CC(C1)(CN)CN | C5H12N2O
product | [4-({[3-(Aminomethyl)oxetan-3-yl]methyl}amino)-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-yl]methanol | NCC1(COC1)CNC1=CC(=NC2=CC=C(C=C12)CO)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C24H28N4O4S
